US08071586B2
vi) (S)-6-Benzyl-6-aza-spiro[2.5]octan-4-ol
A mixture of 300 mg of 6-benzyl-6-aza-spiro[2.5]octan-4-one hydrochloride (1.19 mmol, 1 eq.), 1.5 ml of 2-propanol and 28 ml of 30 mM aq. TRIS-HCl buffer (pH 8.1) was heated to 35° C. The pH was re-adjusted to 8.0. The reaction was started by adding □-NAD (1 mg; free acid; Roche Diagnostics Cat. No. 10 004 626) and ketoreductase KRED-NADH-117 (29.3 mg; Codexis [ex. Biocatalytics]). The suspension was stirred at 35° C. keeping the pH constant at 8.0 by the controlled addition (pH-stat) of 1.0 M aq. sodium hydroxide solution. After roughly 80 area % conversion and 1 d, further 2-propanol (0.3 ml), □-NAD (3 mg; free acid; Roche Diagnostics Cat. No. 10 004 626), ketoreductase KRED-NADH-1 17 (30 mg; Codexis [ex. Biocatalytics]) and magnesium chloride (12.7 mg) were added. After 4 d, 98.5 area % conversion and 5.9 ml consumption of 1.0 M aq. sodium hydroxide solution the reaction mixture was stopped by the addition of sodium chloride (9 g), ethyl acetate (30 ml) and filter aid (1 g Dicalite Speedex). The mixture was stirred 30 min. and filtered. The filtrate was extracted 3 times with 30 ml ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the crude product in over 99.9% e.e. Purification by flash chromatography provided the title compound as a colorless oil.

reactant | 6-benzyl-6-aza-spiro[2.5]octan-4-one hydrochloride | 1.19 mmol, 300 mg, 1 eq. | Cl.C(C1=CC=CC=C1)N1CC(C2(CC2)CC1)=O
reactant | NAD | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
reactant | magnesium chloride | 12.7 mg | [Cl-].[Mg+2].[Cl-]
solvent | 2-propanol | 0.3 ml | CC(C)O | C3H8O
solvent | 2-propanol | 1.5 ml | CC(C)O | C3H8O
product | (S)-6-Benzyl-6-aza-spiro[2.5]octan-4-ol | C(C1=CC=CC=C1)N1C[C@H](C2(CC2)CC1)O | C14H19NO
